US07202232B2
A stirred solution of 4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-benzaldehyde (0.18 g, 0.58 mmol), 3-(2,3-difluoro-phenyl)-3-oxo-propionitrile (0.1 g, 0.55 mmol) and piperidine acetate (8 mg, 0.06 mmol) in dry benzene was heated at reflux for 12 hours. Volatile components were removed under reduced pressure to give a syrup. Trituration with ether gave 3-[4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-phenyl]-2-(2,3-difluoro-benzoyl)-acrylonitrile (0.18 g, 65% yield) as a solid: 1H-NMR (CDCl3) δ 7.15 (s, 1H), 7.24–7.32 (m, 1H), 7.38–7.50 (m, 2H), 7.72 (d, 2H, J=8.4), 8.11 (s, 1H), 8.20 (d, 2H, J=8.4) ppm. ESMS calculated for C21H9F8N3O: 471.1; Found: 472.0 (M+H)+.

reactant | 4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-benzaldehyde | 0.58 mmol, 0.18 g | FC(C1=NN(C(=C1)C(F)(F)F)C1=CC=C(C=O)C=C1)(F)F | C12H6F6N2O
reactant | 3-(2,3-difluoro-phenyl)-3-oxo-propionitrile | 0.55 mmol, 0.1 g | FC1=C(C=CC=C1F)C(CC#N)=O | C9H5F2NO
reactant | piperidine acetate | 0.06 mmol, 8 mg | C(C)(=O)O.N1CCCCC1
reactant | ether | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-[4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-phenyl]-2-(2,3-difluoro-benzoyl)-acrylonitrile | 0.18 g, 65% yield | FC(C1=NN(C(=C1)C(F)(F)F)C1=CC=C(C=C1)C=C(C#N)C(C1=C(C(=CC=C1)F)F)=O)(F)F | C21H9F8N3O
